US07951433B2
The compound (T-31; 20.0 g), 3-fluorophenyl boronic acid (8.20 g), potassium carbonate (22.1 g), Pd/C (NX type; 0.114 g), toluene (100 ml), Solmix A-11 (100 ml), and water (100 ml) were put in a reaction vessel under a nitrogen atmosphere, and heated under reflux for 5 hours. The reaction mixture was cooled to 25° C., and then poured into water (300 ml) and toluene (300 ml) and mixed. Then, the mixture was allowed to stand to be separated into two layers of organic and aqueous layers, and the extraction to an organic layer was carried out. The obtained organic layer was fractionated, washed with water, and then dried over anhydrous magnesium sulfate. The obtained solution was concentrated under reduced pressure, and the residue was purified with a fractional operation by means of column chromatography using heptane as the eluent and silica gel as the stationary phase powder. The product was further purified by recrystallization from a mixed solvent of heptane/Solmix A-11 and dried, whereby 14.2 g of 2,3′-difluoro-4-(4-pentylcyclohexyl)-1,1′-biphenyl (T-32) was obtained. The yield based on the compound (T-31) was 78%.

reactant | 3-fluorophenyl boronic acid | 8.20 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 22.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
reactant | water | 300 ml | O | H2O
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd/C | 0.114 g | [Pd] | Pd
product | 2,3′-difluoro-4-(4-pentylcyclohexyl)-1,1′-biphenyl | 14.2 g | FC1=C(C=CC(=C1)C1CCC(CC1)CCCCC)C1=CC(=CC=C1)F | C23H28F2
